US07112610B2
2-Cyano-4,4-dimethyl-hepta-2,6-dienoic acid ethyl ester.
A solution of 2,2-dimethyl-pent-4-enal (5.0 g, 44 mmol), cyano-acetic acid ethyl ester (5.12 mL, 48 mmol), piperidine (1.3 mL, 14 mmol) and acetic acid (4.52 mL, 80 mmol) in 170 mL of toluene was heated under reflux for 18 hours in a flask equipped with a Dean-Stark separator. Several mL of water was collected in the trap. The reaction was cooled and washed with 1N HCl, NaHCO3 and brine, successively. The organic layers were dried over Na2SO4 and concentrated to an oil. This oil was chromatographed eluting with 20% of EtOAc in hexane to give a combination of two lots total 8.3 g (91%). 1H NMR (400 MHz; CDCl3) 1.28 (s, 6H), 1.32 (t, 3H, J=7 Hz), 2.26 (d, 2H, J=7.6 Hz), 4.27 (q, 2H, J=7.2 Hz), 5.08 (d, 1H, J=12 Hz), 5.10(d, 1H, J=4 Hz), 5.72(m, 1H).

reactant | 2,2-dimethyl-pent-4-enal | 44 mmol, 5.0 g | CC(C=O)(CC=C)C | C7H12O
reactant | cyano-acetic acid ethyl ester | 48 mmol, 5.12 mL | C(C)OC(CC#N)=O | C5H7NO2
reactant | piperidine | 14 mmol, 1.3 mL | N1CCCCC1 | C5H11N
reactant | acetic acid | 80 mmol, 4.52 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 170 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Cyano-4,4-dimethyl-hepta-2,6-dienoic acid ethyl ester | C(C)OC(C(=CC(CC=C)(C)C)C#N)=O | C12H17NO2
